US08071712B2
Into a 1 L beaker were weighed 222 g (1.0 mol) of 4-(benzyloxymethyl)-2,2-dimethyl-1,3-dioxolane prepared in 1-2, 250 ml of ethanol, and 400 ml of distilled water, and the whole was adjusted to pH 2 with phosphoric acid. With introducing nitrogen thereinto, the solution was heated to 70° C. After 1.5 hours of the reaction, the solution was adjusted to pH 7.0 with sodium hydroxide. The resulting salt was subjected to adsorption treatment with an adsorbent “KYOWAAD 1000” (manufactured by Kyowa Hakko Kogyo Co., Ltd.) and then subjected to solvent removal to obtain 3-benzyloxy-1,2-propanediol.

reactant | 4-(benzyloxymethyl)-2,2-dimethyl-1,3-dioxolane | 1.0 mol, 222 g | C(C1=CC=CC=C1)OCC1OC(OC1)(C)C | C13H18O3
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | sodium hydroxide | [OH-].[Na+]
reactant | KYOWAAD 1000 | C(=O)([O-])[O-].[OH-].[OH-].[OH-].[OH-].[OH-].[OH-].[OH-].[Mg+2].[Al+3]
solvent | water | 400 ml | O | H2O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 3-benzyloxy-1,2-propanediol | C(C1=CC=CC=C1)OCC(CO)O | C10H14O3
